US08026257B2
(±)-tert-Butyl 4-((1-(5-dimethylamino-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (150 mg, 0.226 mmol), trans-dichlorobis(tri-o-tolylphosphine)palladium (II) (17.79 mg, 0.023 mmol), and dimethylaminotri-n-butyltin (0.28 mL, 0.905 mmol) were combined in toluene (1.5 mL) in a microwave tube and sealed. After flushing the mixture with nitrogen, the mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated, dissolved in ethyl acetate, washed with water and brine, concentrated and purified by flash chromatography on silica gel (15-30% EtOAc/Hex) to afford 115 mg (80.8%) as yellow oil. 1H-NMR (CDCl3, 500 MHz) δ 7.81 (s, 1H), 7.30 (m, 2H), 6.97 (m, 2H), 6.84 (s, 1H), 5.54 (s, 1H), 5.59 (m, 2H), 4.94 (q, J=5 Hz, 1H), 3.6-3.75 (m, 2H), 3.54 (m, 2H), 3.43 (d, J=10 Hz, 1H), 3.31 (d, J=10 Hz, 2H), 3.00-3.10 (m, 2H), 2.81 (s, 6H), 2.03-2.12 (m, 2H), 1.85-1.95 (m, 2H), 1.43 (d, J=10 Hz, 3H), 1.41 (s, 9H), 0.85-0.90 (m, 2H), −0.09 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 171.1, 161.3 (d, J=975 Hz), 155.0, 147.0, 143.4, 139.2, 134.1, 128.9, 123.5, 120.9, 115.4, 115.1, 114.9, 97.2, 81.5, 79.3, 74.4, 67.0, 60.4, 41.9, 41.2, 32.3, 28.5, 27.9, 26.9, 23.1, 21.1, 17.8, 17.6, 14.3, 13.7, −1.36; Mass spec.: 627.60(MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.226 mmol, 150 mg | BrC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
reactant | dimethylaminotri-n-butyltin | 0.905 mmol, 0.28 mL | CN(C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-dichlorobis(tri-o-tolylphosphine)palladium (II) | 0.023 mmol, 17.79 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.Cl[Pd]Cl
product | (±)-tert-Butyl 4-((1-(5-dimethylamino-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | CN(C1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C)C | C34H51FN4O4Si
